US08071631B2
4-Methyl-N-(1-methyl-3-phenyl-1,2,4-triazol-5-yl)benzenesulfonamide
To a solution of 1-methyl-3-phenyl-1,2,4-triazol-5-amine (320 mg, 2 mmol) in 10 mL of dry pyridine was added 427 mg of 4-methylbenzenesulfonyl chloride (224 mmol). The solution was stirred at room temperature under Argon. After 23 h, the pyridine was removed in vacuo and flashed off with toluene, and the residue was partitioned between 1M NaOH and EtOAc. The alkaline phase was made acidic and the flocculent solid was collected by filtration and taken up in acetone. The aqueous phase was extracted with EtOAc, washed with H2O and dried over Na2SO4. The acetone and the EtOAc phases were combined and evaporated in vacuo to give 0.15 g of a white solid which was taken up in hot HOAc (7 mL), diluted with water (4 mL), and seeded to give 80 mg of needles with mp 300-302° C.

reactant | 1-methyl-3-phenyl-1,2,4-triazol-5-amine | 2 mmol, 320 mg | CN1N=C(N=C1N)C1=CC=CC=C1 | C9H10N4
reactant | 4-methylbenzenesulfonyl chloride | 224 mmol, 427 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methyl-N-(1-methyl-3-phenyl-1,2,4-triazol-5-yl)benzenesulfonamide | 0.15 g | CC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NN1C)C1=CC=CC=C1 | C16H16N4O2S
